US05851946
6.8 g (0.05 mol) of zinc chloride in 100 ml of tetrahydrofuran are added at room temperature to a Grignard reagent prepared from 4.9 g (0.2 mol) of Mg and 19.4 g (0.16 mol) of 3-diethylaminopropyl chloride in 100 ml of tetrahydrofuran. When the reaction has ended, the mixture is stirred at room temperature for 24 hours and filtered, the solvent is removed and the residue is distilled in vacuo. Bis(3-diethylaminopropyl)zinc is obtained as a colourless liquid having a boiling point of 103° C./0.1 mbar.

reactant | zinc chloride | 0.05 mol, 6.8 g | [Cl-].[Zn+2].[Cl-]
reactant | 3-diethylaminopropyl chloride | 0.16 mol, 19.4 g | C(C)N(CCCCl)CC | C7H16ClN
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Bis(3-diethylaminopropyl)zinc | C(C)N(CCC[Zn]CCCN(CC)CC)CC | InChI=1S/2C7H16N.Zn/c2*1-4-7-8(5-2)6-3;/h2*1,4-7H2,2-3H3;
